US07544803B2
6-Pyridin-3-yl-naphthalene-2-carboxylic acid quinolin-7-ylamide.
This material was prepared analogous to the procedure described for Example 1 (a). 6-Bromo-naphthalene-2-carboxylic acid quinolin-7-ylamide, Example 32(b), (67 mg, 0.18 mmol) reacted with 3-pyridine boronic acid (24 mg, 0.2 mmol, Fluorochem) to give the title compound as a brown amorphous solid. MS (ESI, pos. ion) m/z: 376 (M+1).

reactant | 6-Bromo-naphthalene-2-carboxylic acid quinolin-7-ylamide | N1=CC=CC2=CC=C(C=C12)NC(=O)C1=CC2=CC=C(C=C2C=C1)Br | C20H13BrN2O
reactant | 3-pyridine boronic acid | 0.2 mmol, 24 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 6-Pyridin-3-yl-naphthalene-2-carboxylic acid quinolin-7-ylamide | N1=CC=CC2=CC=C(C=C12)NC(=O)C1=CC2=CC=C(C=C2C=C1)C=1C=NC=CC1 | C25H17N3O
